US07169778B2
12. 6-(3,5-Dichloropyridin-4yl)-2-[[4-(diethylaminocarbonyl)phenyl]-amino]-8-methyl-8H-pteridin-7-one
A mixture of 0.50 g (1.6 mmol) of 5-amino-2-[[4-(diethylaminocarbonyl)-phenyl]amino]-4-(methylamino)pyrimidine, 0.8 g (3.2 mmol) of ethyl 2-(3,5-dichloropyridin-4-yl)-2-oxoacetate, and 0.5 mL of HOAc in 20 mL of 2-methoxyethanol is heated under reflux for 16 hours. Workup in EtOAc, followed by chromatography on silica, eluting with EtOAc/hexane (3:2), gives 0.22 g (28%) of the title compound (Compound 13): mp (i-Pr2O) 230–231° C.

reactant | 5-amino-2-[[4-(diethylaminocarbonyl)-phenyl]amino]-4-(methylamino)pyrimidine | 1.6 mmol, 0.50 g | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)C(=O)N(CC)CC)NC | C16H22N6O
reactant | ethyl 2-(3,5-dichloropyridin-4-yl)-2-oxoacetate | 3.2 mmol, 0.8 g | ClC=1C=NC=C(C1C(C(=O)OCC)=O)Cl | C9H7Cl2NO3
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | 2-methoxyethanol | 20 mL | COCCO | C3H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(3,5-Dichloropyridin-4yl)-2-[[4-(diethylaminocarbonyl)phenyl]-amino]-8-methyl-8H-pteridin-7-one | 0.22 g, 28% | ClC=1C=NC=C(C1C1=NC=2C=NC(=NC2N(C1=O)C)NC1=CC=C(C=C1)C(=O)N(CC)CC)Cl | C23H21Cl2N7O2
